US05123951
Ethyl 1-chlorocarbonylcyclopropanecarboxylate (3.11 grams, 0.02 mole), prepared in Example XVIII, 4-bromo-N-methylaniline (3.00 grams, 0.02 mole) and triethylamine (1.63 grams, 0.02 mole) were reacted in a manner similar to that described in Example III to give 3.79 grams (0.01 mole) of ethyl 1-[N-(4-bromophenyl)-N-methylaminocarbonyl]cyclopropanecarboxylate isolated as a colorless oil.

reactant | Ethyl 1-chlorocarbonylcyclopropanecarboxylate | 0.02 mole, 3.11 grams | ClC(=O)C1(CC1)C(=O)OCC | C7H9ClO3
reactant | 4-bromo-N-methylaniline | 0.02 mole, 3.00 grams | BrC1=CC=C(NC)C=C1 | C7H8BrN
reactant | triethylamine | 0.02 mole, 1.63 grams | C(C)N(CC)CC | C6H15N
product | ethyl 1-[N-(4-bromophenyl)-N-methylaminocarbonyl]cyclopropanecarboxylate | 0.01 mole, 3.79 grams | BrC1=CC=C(C=C1)N(C(=O)C1(CC1)C(=O)OCC)C | C14H16BrNO3
